US04061656
2,4,5-Trimethyl-3-chloromethyl-thiophene
24.6 G. of 2,3,5-trimethyl-thiophene, 14.8 g. of freshly distilled chloromethyl methyl ether and 52 g. of glacial acetic acid were combined in a glass pressure bottle and stirred at room temperature for 41/2 hours. The resulting reaction mixture was poured into ice water, stirred for 10 min. and extracted with benzene. The combined benzene extracts were washed twice with saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated. The resulting 2,4,5-trimethyl-3-chloromethyl-thiophene was used for the next step without any further purification.

reactant | 2,3,5-trimethyl-thiophene | CC=1SC(=CC1C)C | C7H10S
reactant | chloromethyl methyl ether | COCCl | C2H5ClO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,4,5-Trimethyl-3-chloromethyl-thiophene | CC=1SC(=C(C1CCl)C)C | C8H11ClS
